US08530670B2
1-(1H-Benzo[d]imidazol-5-yl)-5-(4-(4-hydroxypiperidin-1-yl)phenyl)-pyrrolidine-2,4-dione
The compound was synthesized starting from 1H-benzo[d]imidazol-5-amine (0.970 g, 7.3 mmol), 4-(4-hydroxypiperidin-1-yl)benzaldehyde (1.5 g, 7.3 mmol), mono-tert-butyl malonate (1.17 g, 7.3 mmol), 1-isocyano-2-methylpropan-2-yl methyl carbonate (1.15 g, 7.3 mmol) and sodium tert.-butoxide (1.5 g, 14.6 mmol) according to method 5.

reactant | 1H-benzo[d]imidazol-5-amine | 7.3 mmol, 0.970 g | N1C=NC2=C1C=CC(=C2)N | C7H7N3
reactant | 4-(4-hydroxypiperidin-1-yl)benzaldehyde | 7.3 mmol, 1.5 g | OC1CCN(CC1)C1=CC=C(C=O)C=C1 | C12H15NO2
reactant | mono-tert-butyl malonate | 7.3 mmol, 1.17 g | C(CC(=O)[O-])(=O)OC(C)(C)C
reactant | 1-isocyano-2-methylpropan-2-yl methyl carbonate | 7.3 mmol, 1.15 g | C(OC(C[N+]#[C-])(C)C)(OC)=O | C7H11NO3
reactant | sodium tert.-butoxide | 14.6 mmol, 1.5 g | CC(C)([O-])C.[Na+]
product | 1-(1H-Benzo[d]imidazol-5-yl)-5-(4-(4-hydroxypiperidin-1-yl)phenyl)-pyrrolidine-2,4-dione | N1C=NC2=C1C=CC(=C2)N2C(CC(C2C2=CC=C(C=C2)N2CCC(CC2)O)=O)=O | C22H22N4O3
